US06090846
To a stirred solution of 1-(4-phenoxyphenyl)-2-thiourea (2.00 g, 8.19 mmol) in acetone (20 ml) was added iodoethane (7.61 g, 48.7 mmol). The mixture was heated to reflux for three hours, cooled to room temperature and concentrated at reduced pressure. The resulting viscous oil was crystallized from acetone-pentane to afford S-ethyl-N-(4-phenoxyphenyl)isothiourea hydroiodide as a beige solid. Mp=140-143° C.

reactant | 1-(4-phenoxyphenyl)-2-thiourea | 8.19 mmol, 2.00 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=S)N | C13H12N2OS
reactant | iodoethane | 48.7 mmol, 7.61 g | ICC | C2H5I
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | S-ethyl-N-(4-phenoxyphenyl)isothiourea hydroiodide | I.C(C)SC(NC1=CC=C(C=C1)OC1=CC=CC=C1)=N | InChI=1S/C15H16N2OS.HI/c1-2-19-15(16)17-12-8-10-14(11-9-12)18-13-6-4-3-5-7-13;/h3-11H,2H2,1H3,(H2,16,17);1H
